* File: base_inverter.pex.netlist
* Created: Mon Oct 17 19:33:48 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* 
.include "base_inverter.pex.netlist.pex"
.subckt BASE_INVERTER  VDD IN OUT GND
* 
* GND	GND
* OUT	OUT
* IN	IN
* VDD	VDD
M0 N_GND_M0_d N_IN_M0_g N_OUT_M0_s N_GND_M0_b n L=1.8e-07 W=5.4e-07 AD=4.374e-13
+ AS=4.374e-13
M1 N_VDD_M1_d N_IN_M1_g N_OUT_M1_s N_VDD_M1_b p L=1.8e-07 W=1.44e-06
+ AD=1.1664e-12 AS=1.1664e-12
*
.include "base_inverter.pex.netlist.BASE_INVERTER.pxi"
*
.ends
*
*
