* File: base_inverter.pex.netlist.pex
* Created: Mon Oct 17 19:33:48 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BASE_INVERTER%VDD 1 7 21
c0 10 0 0.06076f
c1 7 0 0.0185988f
r2 16 20 0.0569549
r3 16 19 10.4
r4 16 17 10.4
r5 14 21 6.80984
r6 11 21 6.80984
r7 10 16 0.0571429
r8 10 14 10.8
r9 10 11 10.8
r10 7 20 0.26
r11 1 19 5.5
r12 1 17 5.5
.ends

.subckt PM_BASE_INVERTER%IN 3 7 16
c0 12 0 0.03844f
c1 7 0 0.0206383f
c2 5 0 0.03096f
c3 1 0 0.0481583f
r4 12 16 0.64
r5 12 13 9.6
r6 5 13 7.5254
r7 5 7 23.1
r8 1 13 7.5254
r9 1 3 65.45
.ends

.subckt PM_BASE_INVERTER%OUT 14 21 22
c0 20 0 0.00496f
c1 17 0 0.0111588f
c2 14 0 0.0185988f
c3 3 0 0.0309988f
r4 18 22 7.36421
r5 17 18 10.4
r6 15 20 0.0338756
r7 15 17 0.14
r8 11 20 0.00880368
r9 11 14 0.26
r10 10 21 6.80984
r11 9 10 10.8
r12 6 21 6.80984
r13 5 9 0.2
r14 5 6 10.8
r15 3 20 0.0338756
r16 3 9 0.26
.ends

.subckt PM_BASE_INVERTER%GND 1 13 18
c0 6 0 0.03596f
r1 10 13 0.3
r2 7 18 7.36421
r3 6 10 0.2
r4 6 7 10.4
r5 1 10 10.8
.ends

