* File: three_in_aoi.pex.netlist
* Created: Mon Oct 17 23:25:10 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* 
.include "three_in_aoi.pex.netlist.pex"
.subckt THREE_IN_AOI  VDD Y C B A GND
* 
* GND	GND
* A	A
* B	B
* C	C
* Y	Y
* VDD	VDD
M0 N_GND_M0_d N_C_M0_g N_Y_M0_s N_GND_M0_b n L=1.8e-07 W=5.4e-07 AD=5.832e-13
+ AS=4.374e-13
M1 N_8_M1_d N_B_M1_g N_GND_M1_s N_GND_M0_b n L=1.8e-07 W=5.4e-07 AD=5.832e-13
+ AS=5.832e-13
M2 N_Y_M2_d N_A_M2_g N_8_M2_s N_GND_M0_b n L=1.8e-07 W=5.4e-07 AD=4.374e-13
+ AS=5.832e-13
M3 N_2_M3_d N_C_M3_g N_Y_M3_s N_VDD_M3_b p L=1.8e-07 W=1.53e-06 AD=1.6524e-12
+ AS=1.2393e-12
M4 N_VDD_M4_d N_B_M4_g N_2_M4_s N_VDD_M3_b p L=1.8e-07 W=1.53e-06 AD=1.6524e-12
+ AS=1.6524e-12
M5 N_2_M5_d N_A_M5_g N_VDD_M5_s N_VDD_M3_b p L=1.8e-07 W=1.53e-06 AD=1.2393e-12
+ AS=1.6524e-12
*
.include "three_in_aoi.pex.netlist.THREE_IN_AOI.pxi"
*
.ends
*
*
