* File: three_in_aoi.pex.netlist.pex
* Created: Mon Oct 17 23:25:10 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_THREE_IN_AOI%VDD 1 8 23 24
c0 22 0 0.00496f
c1 19 0 0.0334788f
c2 11 0 0.0173588f
c3 5 0 0.0309988f
r4 17 24 2.64706
r5 17 23 2.64706
r6 17 19 10.8
r7 16 19 0.22
r8 16 17 10.8
r9 14 22 0.0338756
r10 14 16 0.28
r11 9 22 0.00880368
r12 9 11 0.12
r13 5 22 0.0338756
r14 5 8 0.46
r15 1 11 3.46667
.ends

.subckt PM_THREE_IN_AOI%2 18 19 20 22
c2 18 0 0.0247975f
c3 9 0 0.0285188f
c4 1 0 0.0285188f
r5 17 18 0.48
r6 16 22 6.54307
r7 15 16 10.8
r8 12 22 6.54307
r9 11 15 0.22
r10 11 12 10.8
r11 9 18 0.0446983
r12 9 15 0.12
r13 4 20 2.64706
r14 4 19 2.64706
r15 4 7 10.8
r16 3 7 0.22
r17 3 4 10.8
r18 1 17 0.0446983
r19 1 7 0.12
.ends

.subckt PM_THREE_IN_AOI%Y 14 16 28 29 30
c3 27 0 0.00496f
c4 24 0 0.0185988f
c5 22 0 0.00496f
c6 19 0 0.0185988f
c7 16 0 0.0396775f
c8 14 0 0.0210788f
c9 3 0 0.0359588f
r10 25 30 7.36421
r11 24 25 10.4
r12 22 24 0.26
r13 20 29 7.36421
r14 19 20 10.4
r15 17 27 0.02
r16 17 19 0.26
r17 16 22 0.0446983
r18 15 27 0.02
r19 15 16 0.76
r20 11 27 0.02
r21 11 14 0.3
r22 10 28 6.54307
r23 9 10 10.8
r24 6 28 6.54307
r25 5 9 0.22
r26 5 6 10.8
r27 3 27 0.02
r28 3 9 0.32
.ends

.subckt PM_THREE_IN_AOI%C 1 3 6 11
c1 14 0 0.03096f
c2 11 0 0.01984f
c3 1 0 0.0945983f
r4 13 14 9.6
r5 11 13 0.34
r6 3 6 148.225
r7 1 14 7.5254
r8 1 6 19.25
.ends

.subckt PM_THREE_IN_AOI%B 1 3 6 14
c2 14 0 0.0186f
c3 11 0 0.03096f
c4 1 0 0.0945983f
r5 10 14 0.32
r6 10 11 9.6
r7 3 6 148.225
r8 1 11 7.5254
r9 1 6 19.25
.ends

.subckt PM_THREE_IN_AOI%A 1 3 6 14
c2 14 0 0.0186f
c3 11 0 0.03096f
c4 1 0 0.0945983f
r5 10 14 0.32
r6 10 11 9.6
r7 3 6 148.225
r8 1 11 7.5254
r9 1 6 19.25
.ends

.subckt PM_THREE_IN_AOI%GND 1 13 20 21
c0 13 0 0.0247988f
c1 5 0 0.0309988f
r2 13 15 0.28
r3 10 15 0.08
r4 8 21 6.6
r5 8 20 6.6
r6 7 8 10.4
r7 5 10 0.0446983
r8 5 7 0.38
r9 1 15 3.6
.ends

.subckt PM_THREE_IN_AOI%8 1 2
r0 1 2 13.2
.ends

